US04863958
To a solution of 2-(p-methoxybenzyl)-3-methyl-4-hydroxy-5-propyl-7-chlorobenzofuran (100 mg, 0.29 mmole) in methylene chloride (5 mL) cooled to -78° C., was added dropwise over a period of 5 minutes a lM solution of boron tribromide (0.3mL; 0.3 mmole) in methylene chloride. The temperature was allowed to rise to room temperature and the reaction mixture was stirred for 3 hours. It was then cooled to -78° C. and methanol (2 mL) was added rapidly. The resulting solution was poured into water. The phases were separated and the aqueous phase was extracted with methylene chloride. The organic phases were combined, washed with brine, dried (Na2SO4), and concentrated in vacuo. The residue was chromatographed on silica gel and eluted with 15% ethyl acetate in hexane to yield 63 mg gm (66%) of 2-(p-hydroxybenzyl)-3-methyl-4-hydroxy-5-propyl-7-chlorobenzofuran, mp. 142°-143° C.

reactant | 2-(p-methoxybenzyl)-3-methyl-4-hydroxy-5-propyl-7-chlorobenzofuran | 0.29 mmole, 100 mg | COC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3Cl)CCC)O)C=C1 | C20H21ClO3
reactant | boron tribromide | 0.3 mmole, 0.3mL | B(Br)(Br)Br | BBr3
reactant | methanol | 2 mL | CO | CH4O
reactant | water | O | H2O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(p-hydroxybenzyl)-3-methyl-4-hydroxy-5-propyl-7-chlorobenzofuran | 66% | OC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3Cl)CCC)O)C=C1 | C19H19ClO3
